US05891909
b) 3-[5-Methyl-3-[2-(methylsufonyl)phenylsulfonyloxy]phenoxy]propanol
Diethyl azodicarboxylate (0.46 mL, 2.9 mmol) was added slowly to a solution of 1.0 g (2.9 mmol) of 5-methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol, as prepared in the preceding step, 0.21 mL (2.9 mmol) of 1,3-propanediol, and 760 mg (2.9 mmol) of triphenylphosphine in anhydrous tetrahydrofuran (25 mL). The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was evaporated to dryness. The residue was triturated with hexane under sonification, and the solvent was decanted (4 times). The residue was dissolved in dichloromethane and diluted with hexane to produce a crystalline material which was discarded. The filtrate was diluted with hexane to give an oil, and the solvent was decanted. The oil was dissolved in a minimum of methanol and diluted with water to initiate crystallization. The solid was collected by filtration to afford the title compound (1.16 g, quantitative yield). 1H-NMR (300 MHz, CDCl3) δ 8.45 (dd, 1H, J=1.3, 7.8 Hz), 8.12 (dd, 1H, J=1.2, 7.8 Hz), 7.88 (td, 1H, J=1.3, 7.7 Hz), 7.74 (td, 1H, J=1.3, 7.7 Hz), 6.61-6.56 (m, 3H), 4.00 (t, 2H, J=6 Hz), 3.81 (t, 3H, J=5.9 Hz), 3.45 (s, 3H), 2.24 (s, 3H), and 1.97 (pentet, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C17H20O7S2 : 423.1 (M+Na). Found: 423.1.

reactant | Diethyl azodicarboxylate | 2.9 mmol, 0.46 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5-methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol | 2.9 mmol, 1.0 g | CC=1C=C(C=C(C1)O)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H14O6S2
reactant | 1,3-propanediol | 2.9 mmol, 0.21 mL | C(CCO)O | C3H8O2
reactant | triphenylphosphine | 2.9 mmol, 760 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-[5-Methyl-3-[2-(methylsufonyl)phenylsulfonyloxy]phenoxy]propanol | 1.16 g, quantitative yield | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C17H20O7S2
